### PR TITLE
feat(ErdosProblems): 489

### PR DESCRIPTION
**Pull request by conglu1997**
Closes https://github.com/google-deepmind/formal-conjectures/issues/754 with the help of Claude Code.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/489.lean [hunk 1]
```diff
@@ -0,0 +1,69 @@
...
+open scoped Topology
+
+/-- The set of positive integers not divisible by any element of `A`. -/
+def sievedSet (A : Set ℕ) : Set ℕ := {n : ℕ | 0 < n ∧ ∀ a ∈ A, ¬(a ∣ n)}
+
+/-- The squared-gap sum `∑_{b_i < x} (b_{i+1} - b_i)²`, where `b_i` enumerates the positive
+integers not divisible by any element of `A`. -/
+noncomputable def gapSumSq (A : Set ℕ) (x : ℕ) : ℝ :=
+  let b := Nat.nth (· ∈ sievedSet A)
+  ∑ i < Nat.count (· ∈ sievedSet A) x, ((b (i + 1) : ℝ) - b i) ^ 2
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/489.lean]:
```suggestion
noncomputable def GapSumSq (A : Set ℕ) (x : ℕ) : ℝ :=
  letI B := sievedSet A
  let b := Nat.nth (· ∈ B)
  ∑ i < Nat.count (· ∈ B) x, ((b (i + 1) : ℝ) - b i) ^ 2
```

Perhaps also have an intermediate definition of `B`?

File: FormalConjectures/ErdosProblems/489.lean [hunk 2]
```diff
@@ -0,0 +1,69 @@
...
+
+See also [208].
+-/
+@[category research open, AMS 11]
+theorem erdos_489 : answer(sorry) ↔
+    ∀ (A : Set ℕ),
+      (fun x : ℕ => (((Finset.Icc 1 x).filter (· ∈ A)).card : ℝ)) =o[atTop]
+        (fun x : ℕ => Real.sqrt (x : ℝ)) →
+      (sievedSet A).Infinite →
+      ∃ L : ℝ, Tendsto (fun x : ℕ => gapSumSq A x / (x : ℝ)) atTop (𝓝 L) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/489.lean]:
```suggestion
      ∃ L : ℝ, Tendsto (fun x : ℕ => GapSumSq A x / (x : ℝ)) atTop (𝓝 L) := by
```

File: FormalConjectures/ErdosProblems/489.lean [hunk 3]
```diff
@@ -0,0 +1,69 @@
...
+For example, when $A=\{p^2: p\textrm{ prime}\}$ then $B$ is the set of squarefree numbers,
+and the existence of this limit was proved by Erdős.
+
+See also [208].
+-/
+@[category research open, AMS 11]
+theorem erdos_489 : answer(sorry) ↔
+    ∀ (A : Set ℕ),
+      (fun x : ℕ => (((Finset.Icc 1 x).filter (· ∈ A)).card : ℝ)) =o[atTop]
+        (fun x : ℕ => Real.sqrt (x : ℝ)) →
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/489.lean]:
```suggestion
        (fun x : ℕ => (x : ℝ).sqrt) →
```

File: FormalConjectures/ErdosProblems/489.lean [hunk 4]
```diff
@@ -0,0 +1,69 @@
...
+      (sievedSet A).Infinite →
+      ∃ L : ℝ, Tendsto (fun x : ℕ => gapSumSq A x / (x : ℝ)) atTop (𝓝 L) := by
+  sorry
+
+/-- When $A = \{p^2 : p \textrm{ prime}\}$, $B$ is the set of squarefree numbers, and the
+existence of this limit was proved by Erdős. This is the $\alpha = 2$ case of Erdős Problem 145. -/
+@[category research solved, AMS 11]
+theorem erdos_489.variants.squarefree :
+    ∃ L : ℝ, Tendsto
+      (fun x : ℕ => gapSumSq {n | ∃ p, Nat.Prime p ∧ n = p ^ 2} x / (x : ℝ))
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/489.lean]:
```suggestion
      (fun x : ℕ => GapSumSq {n | ∃ p, Nat.Prime p ∧ n = p ^ 2} x / (x : ℝ))
```

File: FormalConjectures/ErdosProblems/489.lean [hunk 5]
```diff
@@ -0,0 +1,69 @@
...
+integers not divisible by any element of `A`. -/
+noncomputable def gapSumSq (A : Set ℕ) (x : ℕ) : ℝ :=
+  let b := Nat.nth (· ∈ sievedSet A)
+  ∑ i < Nat.count (· ∈ sievedSet A) x, ((b (i + 1) : ℝ) - b i) ^ 2
+
+/--
+Let $A\subseteq \mathbb{N}$ be a set such that $\lvert A\cap [1,x]\rvert=o(x^{1/2})$. Let
+$B=\{ n\geq 1 : a\nmid n\textrm{ for all }a\in A\}$.
+If $B=\{b_1<b_2<\cdots\}$ then is it true that
+$$\lim_{x \to \infty} \frac{1}{x}\sum_{b_i<x}(b_{i+1}-b_i)^2$$
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/489.lean]:
```suggestion
If $B=\{b_1 < b_2 < \cdots\}$ then is it true that
$$\lim_{x \to \infty} \frac{1}{x}\sum_{b_i < x}(b_{i+1}-b_i)^2$$
```
Otherwise syntax highlighting in vs code is messed up

**Comment by conglu1997** [comment]
All addressed thanks! :)

**Comment by mo271** [comment]
Thanks again!
